US08217200B2
2-hydroxyethoxy-acetic acid-N,N-dimethylamide
The process of Example 6 is carried out with the difference that instead of ethylene glycol, dioxane is used as solvent and that 1 g of tetrabutylammonium hydroxide are added to the reaction mixture. In this case, the yield is 4.73 g (32.1%) of the title compound having purity higher than 98% as determined by gas chromatography.

reactant | tetrabutylammonium hydroxide | 1 g | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-hydroxyethoxy-acetic acid-N,N-dimethylamide | yield is 4.73 g, 32.1% | CN(C(COCCO)=O)C | C6H13NO3
